US06884868B1
A solution of 4-[4-(methanesulfonyloxy)piperidin-1-yl]nitrobenzene (2.0 g), and potassium thioacetate (1.14 g) in dimethylsulfoxide (DMSO) (20 ml) was stirred at 100-110° C. for 3 hours. The reaction mixture was poured into water (100 ml) and extracted twice with ethyl acetate (100 ml). The extracts were collected, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting precipitates were washed with IPE (50 ml), collected by filtration and dried in vacuo to give 4-(4-acetylthiopiperidin-1-yl)nitrobenzene (1.15 g).

reactant | 4-[4-(methanesulfonyloxy)piperidin-1-yl]nitrobenzene | 2.0 g | CS(=O)(=O)OC1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O5S
reactant | potassium thioacetate | 1.14 g | C(C)(=S)[O-].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-(4-acetylthiopiperidin-1-yl)nitrobenzene | 1.15 g | C(C)(=O)SC1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O3S
